US05011849
Benzaldehyde, N,N-dimethylglycine ethyl ester and sodium hydride were reacted in ether with the addition of a catalytic amount of ethanol according to the method described in Lieb. Ann. Chem. 703 (1967) 37°-43 to give ethyl α-dimethylaminocinnamate. This compound was then reacted according to the method described in Tetrahedron Letters, 46, (1978) 4573°-4574 with oxalyl chloride and hydrazine in 60% yield to give ethyl 4-phenyl-3-pyrazolecarboxylate, melting point 164°-165° after recrystallization from ethanol/diethyl ether.

reactant | Benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | N,N-dimethylglycine ethyl ester | C(C)OC(CN(C)C)=O | C6H13NO2
reactant | sodium hydride | [H-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | ethyl α-dimethylaminocinnamate | 60% yield | CN(C(C(=O)OCC)=CC1=CC=CC=C1)C | C13H17NO2
